US05106871
In tetrahydrofuran were dissolved and suspended 66.5 g of 2',4',6'-trihydroxyacetophenone and 173.0 g of potassium carbonate, and 56.0 ml of 1-chloro-3-methyl-2-butene was dropped into the solution. The mixture was stirred at room temperature for 2 hours and extracted with dimethyl ether, and the organic layer was washed with a 5% solution of potassium carbonate and then with water. The organic layer was shaken with a saturated solution of sodium chloride, dried with anhydrous sodium sulfate and concentrated under a reduced pressure. Recrystallization from benzene gave 31.8 g (yield=34.0%) of 2',4',6'-trihydroxy-3'-(3-methyl-2-butenyl)acetophenone.

reactant | 2',4',6'-trihydroxyacetophenone | 66.5 g | OC1=C(C(=CC(=C1)O)O)C(C)=O | C8H8O4
reactant | potassium carbonate | 173.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-methyl-2-butene | 56.0 ml | ClCC=C(C)C | C5H9Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2',4',6'-trihydroxy-3'-(3-methyl-2-butenyl)acetophenone | 31.8 g, yield=34.0% | OC1=C(C(=CC(=C1CC=C(C)C)O)O)C(C)=O | C13H16O4
